US09255089B2
To 4-(bis(5-fluoropyridin-2-yl)(hydroxy)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one (10.4 mg, 0.02 mmol) in dichloromethane (2.3 mL) added (diethylamino)sulfur trifluoride (9.15 μl, 0.07 mmol) and stirred for 60 minutes before adding more (diethylamino)sulfur trifluoride (0.01 ml, 0.07 mmol). After 60 minutes from the second addition, the reaction was poured into saturated NaHCO3(aq) (5 mL), the layers were separated, and the aqueous was extracted with dichloromethane (2×5 mL). The combined organics were dried over Na2SO4 and concentrated in vacuo. Purification by reverse-phase HPLC (25-75% acetonitrile/water with 0.01% trifluoroacetic acid, Gemini C18 5μ) afforded 6-(3,5-dimethylisoxazol-4-yl)-4-(fluorobis(5-fluoropyridin-2-yl)methyl)-1H-benzo[d]imidazol-2(3H)-one as an off-white solid.

reactant | 4-(bis(5-fluoropyridin-2-yl)(hydroxy)methyl)-6-(3,5-dimethylisoxazol-4-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.02 mmol, 10.4 mg | FC=1C=CC(=NC1)C(C1=CC(=CC=2NC(NC21)=O)C=2C(=NOC2C)C)(O)C2=NC=C(C=C2)F | C23H17F2N5O3
reactant | (diethylamino)sulfur trifluoride | 0.07 mmol, 9.15 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | (diethylamino)sulfur trifluoride | 0.07 mmol, 0.01 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2.3 mL | ClCCl | CH2Cl2
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(fluorobis(5-fluoropyridin-2-yl)methyl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C(C1=NC=C(C=C1)F)(C1=NC=C(C=C1)F)F)C | C23H16F3N5O2
